US08558001B2
2,6-Dichloro-4-(2-methoxyethoxy)benzaldehyde (0.5 g, 2.0 mmol) in acetone (20 mL) were cooled down in ice bath and then potassium permanganate (0.47 g, 3.0 mmol) in water (5 mL) was added slowly under vigorous stirring. The reaction mixture was warmed up slowly to room temperature and reacted over 24 h. The reaction mixture was filtered through celite and washed with acetone. The organic phase was evaporated and then re-dissolved in EtOAc to be extracted with 1N HCl aqueous solution. The organic phase was dried over magnesium sulfate, filtered and concentrated in vacuum to afford the compound 2,6-dichloro-4-(2-methoxyethoxy)benzoic acid.

reactant | 2,6-Dichloro-4-(2-methoxyethoxy)benzaldehyde | 2.0 mmol, 0.5 g | ClC1=C(C=O)C(=CC(=C1)OCCOC)Cl | C10H10Cl2O3
reactant | potassium permanganate | 3.0 mmol, 0.47 g | [Mn](=O)(=O)(=O)[O-].[K+]
solvent | acetone | 20 mL | CC(=O)C | C3H6O
solvent | water | 5 mL | O | H2O
product | 2,6-dichloro-4-(2-methoxyethoxy)benzoic acid | ClC1=C(C(=O)O)C(=CC(=C1)OCCOC)Cl | C10H10Cl2O4
